US05872139
A solution of the above 3-butoxy-4-(1,1-dimethylpropylamino)-cyclobut-3-ene-1,2-dione (1.197 g, 5.0 mmol) and 4-aminomethylpyridine (0.541 g) in tetrahydrofuran (10 mL) was stirred at room temperature for 23 hours. The mixture was freed of solvent and the residue was triturated with diethyl ether and dried to provide 1.154 g of a buff solid. Recrystallization (twice) of the crude product from methanol gave 0.832 g (61%) of 3-(1,1-dimethylpropylamino)-4-[(pyridin-4-ylmethyl)-amino]cyclobut-3-ene-1,2-dione as a white compound: mp 258.0°-259.5° C. dec (softens 257.5° C.); 1H NMR (DMSO-d6): δ 8.56 (m, 2H), 7.86 (m, br, 1H), 7.46 (s, br, 1H), 7.32 (m, 2H), 4.77 (d, 2H), 1.67 (q, 2H), 1.32 (s, 6H), 0.83 (t, 3H). IR (KBr): 3270, 1790, 1650 cm-1 ; MS (m/z) 273 (M+).

reactant | 3-butoxy-4-(1,1-dimethylpropylamino)-cyclobut-3-ene-1,2-dione | 5.0 mmol, 1.197 g | C(CCC)OC=1C(C(C1NC(CC)(C)C)=O)=O | C13H21NO3
reactant | 4-aminomethylpyridine | 0.541 g | NCC1=CC=NC=C1 | C6H8N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(1,1-dimethylpropylamino)-4-[(pyridin-4-ylmethyl)-amino]cyclobut-3-ene-1,2-dione | 0.832 g, 61% | CC(CC)(C)NC=1C(C(C1NCC1=CC=NC=C1)=O)=O | C15H19N3O2
